US07834002B2
Then, to a solution of 760 mg of 4-{3-[6-(t-butyldimethylsilanyloxymethyl)pyridin-2-yl]propyl}morpholine in 4 mL of THF at ice temperature, 4.34 mL of a solution of TBAF/THF (1 mol/L) was added dropwise. After stirring the solution at room temperature for 2 hours, the solvent was removed, and the residue was purified by chromatography on silica gel (methylene chloride-ethanol=40:1) to give 495 mg of [6-(3-morpholin-4-ylpropyl)pyridin-2-yl]methanol.

reactant | 4-{3-[6-(t-butyldimethylsilanyloxymethyl)pyridin-2-yl]propyl}morpholine | 760 mg | [Si](C)(C)(C(C)(C)C)OCC1=CC=CC(=N1)CCCN1CCOCC1 | C19H34N2O2Si
reactant | TBAF THF | 1 mol/L | CCCC[N+](CCCC)(CCCC)CCCC.[F-].C1CCOC1
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | [6-(3-morpholin-4-ylpropyl)pyridin-2-yl]methanol | 495 mg | N1(CCOCC1)CCCC1=CC=CC(=N1)CO | C13H20N2O2
